US04550105
To a solution of 0.387 g of (3S,4S)-4-acetoxy-3-amino-1-t-butyldimethylsilyl-2-oxoazetidine in 20 ml of THF is added 0.24 of triethylamine under ice-cooling, and then, a solution of 0.32 g of phenylacetyl chloride in THF is added dropwise. The mixture is stirred under ice-cooling for one hour, the insolubles are filtered off, and the filtrate is concentrated under reduced pressure. Purifying the residue on a silica gel column (ethyl acetate:n-hexane=1:2) yields 0.511 g of (3S,4S)-4-acetoxy-1-t-butyldimethylsilyl-3-phenylacetamido-2-oxoazetidine.

reactant | (3S,4S)-4-acetoxy-3-amino-1-t-butyldimethylsilyl-2-oxoazetidine | 0.387 g | C(C)(=O)O[C@H]1[C@@H](C(N1[Si](C)(C)C(C)(C)C)=O)N | C11H22N2O3Si
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.32 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (3S,4S)-4-acetoxy-1-t-butyldimethylsilyl-3-phenylacetamido-2-oxoazetidine | 0.511 g | C(C)(=O)O[C@H]1[C@@H](C(N1[Si](C)(C)C(C)(C)C)=O)NC(CC1=CC=CC=C1)=O | C19H28N2O4Si
